US04647566
1,4-Dioxaspiro[4.5]decan-8-one (40 g) and diethyl aminomethylenemalonate (47.94 g) are dissolved in 500 ml of toluene. p-Toluenesulfonic acid monohydrate (2.44 g) and 100 ml of toluene are then added and the mixture is refluxed for 3 days collecting water in a Dean-Stark trap. The resulting mixture is decanted and solvent is removed to leave on oil. This oil is flash chromatographed on 750 g silica gel using 9:1 CH2Cl2, EtOAc as eluant to yield diethyl N-(1,4-dioxaspiro[4.5]decen-8-yl)aminomethylenemalonate as an oil.

reactant | 1,4-Dioxaspiro[4.5]decan-8-one | 40 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | diethyl aminomethylenemalonate | 47.94 g | NC=C(C(=O)OCC)C(=O)OCC | C8H13NO4
reactant | p-Toluenesulfonic acid monohydrate | 2.44 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | diethyl N-(1,4-dioxaspiro[4.5]decen-8-yl)aminomethylenemalonate | O1C=COC12CCC(CC2)NC=C(C(=O)OCC)C(=O)OCC | C16H23NO6
